US04772703
(C) 1,1,1-Trifluoro-N-[3-(2-quinazolinylmethoxy)phenyl]methanesulfonamide
A solution of 5 g (0.02 mol) of 3-(2-quinazolinylmethoxy)benzenamine and 2.5 g (0.024 mol) of triethylamine in 150 ml of methylene chloride is cooled to -70° C. A solution of 6.2 g (0.022 mol, 3.7 ml) of trifluoromethanesulfonic acid anhydride in 50 ml of methylene chloride is added from a dropping funnel and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo and the residue is dissolved in 250 ml of ethyl acetate/250 ml of water. The layers are separated and the ethyl acetate solution is washed with brine, dried over magnesium sulfate, and concentrated in vacuo to give 6.8 g of residue, m.p. 140°-150° C. Recrystallization from isopropanol gives 1.7 g (22%) of crystals, m.p. 173°-176° C.

reactant | 3-(2-quinazolinylmethoxy)benzenamine | 0.02 mol, 5 g | N1=C(N=CC2=CC=CC=C12)COC=1C=C(C=CC1)N | C15H13N3O
reactant | triethylamine | 0.024 mol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 0.022 mol, 3.7 ml, 6.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[3-(2-quinazolinylmethoxy)phenyl]methanesulfonamide | 6.8 g | FC(S(=O)(=O)NC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=N1)(F)F | C16H12F3N3O3S
